### ISSUE TITLE
Tractatus: introduce formEq (logical form between syntax and semantics)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#10857]
## Problem

We have structEq (too strict — exact tree shape) and semEq (too weak — truth-conditional). Wittgenstein's notion of logical form lives between them. Nothing in the formalization captures this intermediate level.

### 1. Define formEq (structural isomorphism up to renaming)

```lean
def formEq (p q : Proposition S) : Prop :=
  ∃ (σ : S → S), Function.Bijective σ ∧ rename σ p = q
```

Where `rename` applies a permutation to elementary propositions.

### 2. Prove the hierarchy

```
structEq → formEq → semEq
```

And show each inclusion is strict:
- `structEq ⊂ formEq`: two elementary propositions with different atoms are formEq (via renaming) but not structEq
- `formEq ⊂ semEq`: `neg (neg p)` is semEq to `p` but not formEq (different tree depth)

### 3. Annotate with TLP connection

This relates to TLP 4.0141 — logical form is preserved under projection but not captured by truth conditions alone. The hierarchy makes precise where Wittgenstein's notion sits.

## Acceptance Criteria

- [ ] `rename` function defined
- [ ] `formEq` defined  
- [ ] Hierarchy theorems: structEq → formEq → semEq
- [ ] Strictness witnesses for both inclusions
- [ ] Annotation connecting to TLP

## References

- Peer review rounds 2-3
- TLP 4.0141, 4.014

**Comment by rjwalters** [comment]
## Curator Enhancement

Curating this issue per user request. The following adds implementation guidance, Lean 4 technical analysis, proof sketches, and a test plan on top of the already well-formed problem statement.

---

## Technical Context

### What already exists in `proofs/Proofs/TractatusOntology.lean`

The relevant definitions are in `namespace Tractatus`, section 11 (lines 817–889):

```lean
-- Syntactic (tree-shape) equality
def Proposition.structEq : Proposition S → Proposition S → Prop
  | .elementary s₁, .elementary s₂ => s₁ = s₂
  | .neg p₁,        .neg p₂        => structEq p₁ p₂
  | .conj p₁ q₁,   .conj p₂ q₂   => structEq p₁ p₂ ∧ structEq q₁ q₂
  | _,              _               => False

-- Semantic (truth-conditional) equivalence
def Proposition.semEq (p q : Proposition S) : Prop :=
  ∀ w : World S, p.eval w ↔ q.eval w
```

The theorem `structEq_ne_semEq` witnesses the gap using `neg (neg p)` vs `p` — same truth conditions, different tree. This issue introduces a third relation, `formEq`, sitting between them.

### The `Proposition` inductive type

```lean
inductive Proposition (S : Type) where
  | elementary : S → Proposition S
  | neg        : Proposition S → Proposition S
  | conj       : Proposition S → Proposition S → Proposition S
```

`S` is the abstract atom type (called `Sachverhalt` or `S` throughout the file). The file uses a `variable (S : Type)` convention, so all definitions are implicitly parameterized.

---

## Implementation Guidance

### 1. Defining `rename`

`rename` applies a function `σ : S → S` to every elementary proposition leaf. This is a straightforward structural recursion:

```lean
namespace Proposition

/-- Apply an atom-renaming function to every elementary proposition.
    Connective structure is preserved; only atom labels change.
    Relates to TLP 4.014: projection preserves logical form. -/
def rename (σ : S → S) : Proposition S → Proposition S
  | .elementary s => .elementary (σ s)
  | .neg p        => .neg (p.rename σ)
  | .conj p q     => .conj (p.rename σ) (q.rename σ)

end Proposition
```

**No Lean 4 challenges here.** Lean's `match`/`inductive` elaborator handles structural recursion on `Proposition S` straightforwardly. The termination checker accepts it without hints because the recursive calls are on strict sub-terms.

Key supporting lemmas needed before the hierarchy theorems:

```lean
-- rename composes functorially
theorem rename_comp (σ τ : S → S) (p : Proposition S) :
    (p.rename σ).rename τ = p.rename (τ ∘ σ) := by
  induction p with
  | elementary s => simp [Proposition.rename]
  | neg q ih     => simp [Proposition.rename, ih]
  | conj q r ihq ihr => simp [Proposition.rename, ihq, ihr]

-- rename id is identity
theorem rename_id (p : Proposition S) : p.rename id = p := by
  induction p with
  | elementary s => rfl
  | neg q ih     => simp [Proposition.rename, ih]
  | conj q r ihq ihr => simp [Proposition.rename, ihq, ihr]
```

These establish `rename` as a functor `(S → S) → Proposition S → Proposition S`, making it the natural vehicle for "relabeling without restructuring."

### 2. Defining `formEq`

```lean
namespace Proposition

/-- Logical-form equivalence (TLP 4.0141, 4.014).
    Two propositions share their logical form iff one is obtained
    from the other by a bijective renaming of atoms. This is strictly
    between syntactic identity (structEq) and truth-conditional
    identity (semEq). -/
def formEq (p q : Proposition S) : Prop :=
  ∃ σ : S → S, Function.Bijective σ ∧ p.rename σ = q

end Proposition
```

**Design note**: The issue uses `∃ σ : S → S, Function.Bijective σ ∧ rename σ p = q`. Equivalently (and slightly more readable for Lean's unifier), this can be written as `Equiv.Perm S` acting on `p`:

```lean
-- Alternative using Equiv (cleaner for some downstream proofs):
def formEq' (p q : Proposition S) : Prop :=
  ∃ e : Equiv.Perm S, p.rename e = q
```

The `Equiv.Perm` version avoids having to carry the bijectivity proof separately and is often cleaner in Lean 4 because `Equiv.Perm S` is already a group with `Equiv.Perm.group` instance. Either formulation works; recommend `Equiv.Perm` for cleanliness.

**`formEq` is an equivalence relation** — worth proving immediately as it de-risks the rest:

```lean
theorem formEq_refl (p : Proposition S) : p.formEq p :=
  ⟨Equiv.refl S, Equiv.refl_bijective, rename_id p⟩

theorem formEq_symm {p q : Proposition S} (h : p.formEq q) : q.formEq p := by
  obtain ⟨e, hbij, heq⟩ := h
  exact ⟨e.symm, e.symm.bijective, by rw [← heq, rename_comp]; simp [rename_id]⟩

theorem formEq_trans {p q r : Proposition S} (hpq : p.formEq q) (hqr : q.formEq r) :
    p.formEq r := by
  obtain ⟨e₁, h₁, heq₁⟩ := hpq
  obtain ⟨e₂, h₂, heq₂⟩ := hqr
  exact ⟨e₂ ∘ e₁, h₂.comp h₁, by rw [← heq₂, ← heq₁, rename_comp]⟩
```

### 3. The Hierarchy: `structEq → formEq → semEq`

**Lemma A: `structEq p q → formEq p q`**

Proof sketch: by induction on the shared tree structure, using `id` as the renaming (with the identity permutation). `structEq` requires same atoms, so `rename id p = p` gives `p = q` at leaves.

```lean
theorem structEq_implies_formEq {S : Type} {p q : Proposition S}
    (h : p.structEq q) : p.formEq q := by
  -- The identity renaming witnesses formEq when atoms are identical
  refine ⟨id, Function.bijective_id, ?_⟩
  rw [rename_id]
  -- Now prove p = q from structEq p q by induction
  induction p with
  | elementary s =>
    cases q with
    | elementary s' => simp [Proposition.structEq] at h; rw [h]
    | _ => exact absurd h (by simp [Proposition.structEq])
  | neg p' ih =>
    cases q with
    | neg q' => simp [Proposition.structEq] at h; rw [ih h]
    | _ => exact absurd h (by simp [Proposition.structEq])
  | conj p' p'' ih₁ ih₂ =>
    cases q with
    | conj q' q'' =>
      simp [Proposition.structEq] at h
      rw [ih₁ h.1, ih₂ h.2]
    | _ => exact absurd h (by simp [Proposition.structEq])
```

**Lemma B: `formEq p q → semEq p q`**

Key insight: a bijective renaming `σ` of atoms permutes which states of affairs appear in the proposition, but if we also permute the world by precomposing with `σ`, truth is preserved. Formally:

```lean
theorem rename_eval (σ : S → S) (p : Proposition S) (w : World S) :
    (p.rename σ).eval w = p.eval (fun s => w (σ s)) := by
  induction p with
  | elementary s => rfl
  | neg q ih     => simp [Proposition.rename, Proposition.eval, ih]
  | conj q r ihq ihr => simp [Proposition.rename, Proposition.eval, ihq, ihr]

theorem formEq_implies_semEq [Nonempty S] {p q : Proposition S}
    (h : p.formEq q) : p.semEq q := by
  obtain ⟨σ, hbij, heq⟩ := h
  intro w
  rw [← heq, rename_eval]
  -- Need: p.eval w ↔ p.eval (w ∘ σ)
  -- This holds when σ is a bijection and we range over ALL worlds:
  -- For each world w, construct w' = w ∘ σ; bijectivity means
  -- the mapping w ↦ w ∘ σ is also a bijection on worlds.
  -- The eval of p in w and p in (w ∘ σ) are not equal pointwise —
  -- they are equal modulo world transformation.
  -- CAREFUL: this direction requires the bijection surjectivity
  -- to show the worlds swept are the same.
  sorry -- see Lean 4 challenge note below
```

**Lean 4 Challenge — `formEq → semEq`**: This implication is trickier than it looks. `(p.rename σ).eval w = p.eval (w ∘ σ)` is easy (by `rename_eval`), but to conclude `p.eval w ↔ q.eval w = (p.rename σ).eval w`, we need `p.eval w = (p.rename σ).eval (w ∘ σ⁻¹)` — requiring the inverse. With `Equiv.Perm`, `σ⁻¹` is `e.symm`, and the argument closes:

```lean
-- Using Equiv.Perm formulation:
theorem formEq_implies_semEq [Nonempty S] {p q : Proposition S}
    (h : p.formEq q) : p.semEq q := by
  obtain ⟨e, heq⟩ := h  -- if using Equiv.Perm version
  intro w
  calc p.eval w
      = (p.rename e).eval (w ∘ e.symm) := by
          rw [rename_eval]; simp [Function.comp, Equiv.symm_apply_apply]
    _ = q.eval (w ∘ e.symm)             := by rw [heq]
    _ ↔ q.eval w                        := by
          -- NOT equal — this calc approach is wrong.
          -- semEq is ∀ w, but the eval at w ∘ e.symm ≠ eval at w in general
          sorry
```

**The fundamental challenge**: `formEq` does NOT imply `semEq p q` via a direct pointwise argument — two propositions can have different truth values at the same world even if they are related by a bijective renaming (consider `elementary .rain` vs `elementary .snow` in `rainyWorld`). What IS true is that `formEq` implies `semEq` over any WORLD MODEL where the permutation group acts transitively on atom assignments (i.e., in the free model with `IndependentWorlds`). The correct statement is:

```
semEq (in the restricted sense): p and q have the same truth-table
structure, but their truth values in a GIVEN world may differ.
```

This is the key insight the implementation must navigate: `formEq → semEq` does NOT hold in general as a statement about `World S`. The hierarchy should instead be expressed as:

- `structEq p q → formEq p q` (always true, id witnessing)
- `formEq p q → ∀ σ-twisted world assignment, p and q agree` (always true)
- `semEq` as truth-table isomorphism: for any truth-table T that `p` can have, `q` has the same table (under atom relabeling)

A correct reformulation: `formEq p q ↔ ∃ σ, ∀ w, p.eval w = q.eval (w ∘ σ)`.

**Recommended resolution**: The hierarchy theorem should be stated as:

```lean
-- Correct "→ semEq" direction: formEq means there exists a WORLD-RELABELING
-- making p and q agree on ALL worlds, not that they agree on EVERY world.
theorem formEq_implies_truth_table_iso [Nonempty S] {p q : Proposition S}
    (h : p.formEq q) :
    ∃ f : World S → World S, ∀ w : World S, p.eval w ↔ q.eval (f w) := by
  obtain ⟨σ, hbij, heq⟩ := h
  refine ⟨fun w => w ∘ σ, fun w => ?_⟩
  rw [← heq, rename_eval]

-- And formEq implies semEq when σ = id, i.e., structEq implies semEq:
theorem structEq_implies_semEq {p q : Proposition S} (h : p.structEq q) :
    p.semEq q := by
  intro w
  induction p with ...  -- standard structural induction
```

The issue should clarify whether `formEq → semEq` is intended as a world-relabeling isomorphism or literal truth-conditional equivalence. The implementation guidance below recommends the world-relabeling formulation as the correct intermediate notion.

### 4. Strictness Witnesses

**`structEq ⊊ formEq`**: Two distinct atoms, same connective shape.

```lean
-- In TwoFacts: rain and snow are formEq but not structEq
example : (Proposition.elementary TwoFacts.rain).formEq
          (Proposition.elementary TwoFacts.snow) := by
  refine ⟨fun | .rain => .snow | .snow => .rain, ?_, ?_⟩
  · constructor
    · intro a b hab; cases a <;> cases b <;> simp_all
    · intro b; cases b <;> [exact ⟨.snow, rfl⟩, exact ⟨.rain, rfl⟩]
  · simp [Proposition.rename]
```

**`formEq ⊊ structEq`** (showing formEq is strictly weaker):

```lean
-- neg (neg p) is semEq to p (double negation) but NOT formEq to p
-- because rename cannot change tree depth
example (s : TwoFacts) :
    ¬ (Proposition.neg (.neg (.elementary s))).formEq (.elementary s) := by
  rintro ⟨σ, hbij, heq⟩
  -- heq : rename σ (neg (neg (elementary s))) = elementary s
  -- But rename preserves tree structure, so LHS must be neg (neg _)
  simp [Proposition.rename] at heq
  -- contradiction: neg (neg _) ≠ elementary _
```

This witness confirms `formEq ⊊ semEq` since `neg (neg p)` is `semEq` to `p` by `double_negation` but not `formEq`.

### 5. TLP Annotation

Add a comment block connecting to TLP 4.0141 and 4.014:

```
TLP 4.014: "A gramophone record, the musical thought, the score, the
           waves of sound, all stand to one another in that pictorial
           internal relation which holds between language and the world."

TLP 4.0141: "There is a general rule... the same logical form."

formEq captures exactly what is preserved under Wittgenstein's projection:
the tree structure (connective shape + arity at each node), but not which
particular atoms appear. structEq is too strict (fixes atom identity);
semEq is too weak (only truth tables). formEq is the formal correlate of
'same logical form' in the sense of 4.0141.
```

---

## Affected Files

- `/Users/rwalters/GitHub/lean-genius/proofs/Proofs/TractatusOntology.lean` — add `rename`, `formEq`, hierarchy theorems, and strictness witnesses inside `namespace Tractatus` (after line 853, within Section 11). The `Proposition.structEq` and `Proposition.semEq` definitions already exist at lines 840–852.
- `/Users/rwalters/GitHub/lean-genius/src/data/proofs/tractatus-ontology/annotations.json` — add annotation for `formEq` section referencing TLP 4.0141 and 4.014
- `/Users/rwalters/GitHub/lean-genius/src/data/proofs/tractatus-ontology/meta.json` — update `originalContributions` array with formEq entry; increment `theoremCount`

---

## Implementation Order

1. Define `Proposition.rename` (pure structural recursion — no difficulties)
2. Prove `rename_id` and `rename_comp` (supporting lemmas)
3. Prove `rename_eval` (connects rename to semantic evaluation)
4. Define `Proposition.formEq` — use `Equiv.Perm S` formulation for cleaner downstream proofs
5. Prove `formEq` is an equivalence relation (refl, symm, trans)
6. Prove `structEq_implies_formEq`
7. Prove the `formEq` strictness witness (atoms swapped via swap permutation)
8. Prove `formEq_implies_truth_table_iso` (world-relabeling version — see challenge note)
9. Prove `neg_neg_not_formEq_elementary` (formEq ⊊ semEq witness)
10. Add TLP annotation blocks

**Note**: If the issue author intends `formEq → semEq` as literal world-by-world truth-value equality, that implication is FALSE — clarify with the issue author before implementing. The correct intermediate notion is "truth-table isomorphism up to atom permutation" (world-relabeling formulation above).

---

## Lean 4 Challenges Summary

| Challenge | Severity | Mitigation |
|-----------|----------|------------|
| `rename` termination | None — structural recursion on `Proposition S` is accepted automatically | N/A |
| `formEq → semEq` direction | HIGH — false as stated; requires world-relabeling reformulation | Use `formEq_implies_truth_table_iso` instead |
| `Equiv.Perm` vs `Function.Bijective` | Low — prefer `Equiv.Perm` for group structure access | Use `Equiv.Perm S` in definition |
| Proving bijectivity of swap | Low — `Equiv.swap` in Mathlib provides this for free | Use `Equiv.swap .rain .snow` as the permutation witness |
| `rename_comp` associativity | Low — `simp` closes after unfolding | Standard |

---

## Test Plan

- [ ] Manual Lean build: add `rename`, `formEq`, and all theorems; run `./proofs/scripts/docker-build.sh Proofs.TractatusOntology` and confirm zero errors, zero sorries
- [ ] Automated check: `grep -c "sorry" proofs/Proofs/TractatusOntology.lean` returns 0 after implementation
- [ ] Verify `rename_id`: `#check @Proposition.rename_id` succeeds
- [ ] Verify `rename_comp`: `#check @Proposition.rename_comp` succeeds
- [ ] Verify `formEq_refl`, `formEq_symm`, `formEq_trans`: equivalence relation instances check
- [ ] Verify `structEq_implies_formEq`: passes with `TwoFacts` concrete instantiation
- [ ] Verify strictness witness for `structEq ⊊ formEq`: `elementary .rain` formEq `elementary .snow` in `TwoFacts`
- [ ] Verify strictness witness for `formEq ⊊ semEq`: `neg (neg (elementary s))` is NOT formEq to `elementary s`
- [ ] Verify `semEq` of `neg (neg p)` to `p` still holds (existing `double_negation` theorem unaffected)
- [ ] Gallery build: `pnpm build` passes after annotation updates
- [ ] Edge cases: verify `rename` on compound `conj` and `disj` terms preserves shape correctly
